US07205411B2
Following the same procedure as described in Example 1, (2-bromo-6-methyl-pyridin-3-yl)amine (800 mg, 4.28 mmol) reacted with (PPh3)2PdCl2 (150 mg, 0.21 mmol), Cul (41 mg, 0.21 mmol) and ethynyltrimethylsilane (840 mg, 8.55 mmol) in triethylamine (30 ml). The crude residue was purified by flash chromatography (hexane/ethyl acetate 8:2) to yield 330 mg (1.61 mmol, 38%) of (6-methyl-2-trimethylsilanylethynyl-pyridin-3-yl)amine as a beige solid.

reactant | (2-bromo-6-methyl-pyridin-3-yl)amine | 4.28 mmol, 800 mg | BrC1=NC(=CC=C1N)C | C6H7BrN2
reactant | ethynyltrimethylsilane | 8.55 mmol, 840 mg | C(#C)[Si](C)(C)C | C5H10Si
solvent | triethylamine | 30 ml | C(C)N(CC)CC | C6H15N
catalyst | (PPh3)2PdCl2 | 0.21 mmol, 150 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | (6-methyl-2-trimethylsilanylethynyl-pyridin-3-yl)amine | 1.61 mmol, 330 mg, 38% | CC1=CC=C(C(=N1)C#C[Si](C)(C)C)N | C11H16N2Si
